US06518257B1
(i) Production of 1-(4′-fluoro[1,1′-biphenyl]-3-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol
By the reaction in the same manner as in Example 1-(i) using 4-fluorophenylboronic acid (0.41 g) and 1-(3-bromophenyl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (1.01 g), the title compound (0.71 g) was obtained as a pale-yellow solid.

reactant | 4-fluorophenylboronic acid | 0.41 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 1-(3-bromophenyl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 1.01 g | BrC=1C=C(C=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H29BrN2O
product | 1-(4′-fluoro[1,1′-biphenyl]-3-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 0.71 g | FC1=CC=C(C=C1)C1=CC(=CC=C1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H33FN2O
